US08748626B2
To a solution of (R)—N-((5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)methylene)-2-methylpropane-2-sulfinamide (6.5 g, 15.53 mmol) in anhydrous THF (78 mL) was slowly added tBuLi (1.7 M solution in pentane, 27.4 mL, 46.6 mmol) at −78° C. After the reaction mixture was stirred at −78° C. for 3 h, the reaction was quenched with MeOH (10 mL) followed by addition of saturated NH4Cl solution (30 mL). Upon warming up to room temperature, the reaction mixture was stirred for 30 min and then extracted with EtOAc (250 mL). The organic layer was washed with water and brine, dried over anhydrous Na2SO4, filtered, and concentrated. The crude product was purified by automatic column chromatography to yield enantiomerically enriched (R)-N-((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropyl)-2-methylpropane-2-sulfinamide (3.93 g, 53.1%) as a pale yellow solid. Only single diastereomer was formed and isolated. 1H NMR (CDCl3, 400 MHz): δ 7.87 (1H, m), 7.37-7.29 (3H, m), 7.27-7.21 (2H, m), 7.11-6.96 (2H, m), 4.43-4.28 (2H, m), 4.24-4.09 (2H, m), 1.28 (9H, s), 1.00 (9H, s). LC/MS (uplc): MH+ 477.2, 1.44 min.

reactant | (R)—N-((5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)methylene)-2-methylpropane-2-sulfinamide | 15.53 mmol, 6.5 g | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)C=N[S@](=O)C(C)(C)C | C21H20F2N2OS2
reactant | tBuLi | 46.6 mmol, 1.7 M, 27.4 mL | [Li]C(C)(C)C
solvent | THF | 78 mL | C1CCOC1 | C4H8O
product | (R)-N-((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropyl)-2-methylpropane-2-sulfinamide | 3.93 g, 53.1% | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)[C@@H](C(C)(C)C)N[S@](=O)C(C)(C)C | C25H30F2N2OS2
